US03956321
To a reaction vessel fitted with a reflux condenser magnetic stirrer and nitrogen inlet were placed 3.35 grams (0.0174 mol) 4-nitrophthalic anhydride, 2.83 grams (0.036 mol) anhydrous potassium fluoride, and 8 ml. dry dimethyl sulfoxide. The reaction vessel was placed in an oil bath at 142°C. and kept at this temperature for about 35 minutes while stirring the reaction mixture. VPC analysis of a portion of the reaction mixture showed that the reaction was complete after about 20 minutes. The reaction mixture was cooled to room temperature and then poured into dilute aqueous hydrochloric acid and extracted with ethyl acetate to give a product which upon distillation gave 1.007 grams (about 35% yield) of 4-fluorophthalic anhydride.

reactant | 4-nitrophthalic anhydride | 0.0174 mol, 3.35 grams | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | potassium fluoride | 0.036 mol, 2.83 grams | [F-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 4-fluorophthalic anhydride | 1.007 grams, about 35% yield | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
